US07612114B2
Synthesized from 5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenylamine and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 114, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenyl]amine (316 mg) was used according to an analogous synthetic method to Example 36 to provide ethyl [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenyl]amine (82 mg). The total amount of this compound was used according to an analogous synthetic method to Example 111 to provide the title compound (62 mg).

reactant | 5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C=1C(C2=CC=C(C=C2CC1)OC)(C)C | C20H23NO2
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenyl]amine | 316 mg | FC=1C=C(CNC2=C(C=CC(=C2)OC)C=2C(C3=CC=C(C=C3CC2)OC)(C)C)C=CC1OCCN1CCCCC1 | C34H41FN2O3
product | ethyl [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenyl]amine | 82 mg | C(C)N(C1=C(C=CC(=C1)OC)C=1C(C2=CC=C(C=C2CC1)OC)(C)C)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C36H45FN2O3
